US07855218B2
(5R)-5-[4-(2-phenylethyl)phenyl]-L-prolinamide hydrochloride (E28)
To a suspension of (5R)-5-[4-(2-phenylethyl)phenyl]-L-prolinamide (D81, 30 mg, 0.1 mmol) in diethyl ether (2 ml) was added hydrochloric acid (1N in Et2O, 150 μl) and the mixture was triturated. The solvent was removed under vacuum affording the title compound as a white solid (30 mg, 91%). Rt (HPLC): 3.81 min; MS: (ES/+) m/z: 295 [MH]+ C19H22N2O requires 294; 1H NMR (500 MHz, DMSO-d6) δ (ppm): 8.15-8.98 (br.s, 2H); 8.01 (s, 1H); 7.71 (s, 1H); 7.43 (d, 2H); 7.30 (d, 2H); 7.26 (d, 2H); 7.24 (t, 2H); 7.17 (t, 1H); 4.51-4.65 (m, 1H); 4.23-4.33 (m, 1H); 2.81-2.95 (m, 4H); 2.25-2.39 (m, 2H); 2.08-2.20 (m, 1H); 1.92-2.06 (m, 1H).

reactant | (5R)-5-[4-(2-phenylethyl)phenyl]-L-prolinamide | 0.1 mmol, 30 mg | C1(=CC=CC=C1)CCC1=CC=C(C=C1)[C@H]1CC[C@H](N1)C(=O)N | C19H22N2O
reactant | hydrochloric acid | 1N, 150 μl | Cl | ClH
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
product | (5R)-5-[4-(2-phenylethyl)phenyl]-L-prolinamide hydrochloride | 30 mg, 91% | Cl.C1(=CC=CC=C1)CCC1=CC=C(C=C1)[C@H]1CC[C@H](N1)C(=O)N | InChI=1S/C19H22N2O.ClH/c20-19(22)18-13-12-17(21-18)16-10-8-15(9-11-16)7-6-14-4-2-1-3-5-14;/h1-5,8-11,17-18,21H,6-7,12-13H2,(H2,20,22);1H/t17-,18+;/m1./s1
